US08530663B2
4-[2-(Toluene-4-sulfonyloxymethyl)furan-3-yl]piperidine-1-carboxylic Acid t-Butyl Ester
4-(2-Hydroxymethylfuran-3-yl)piperidine-1-carboxylic acid t-butyl ester (0.3 g, 1.1 mmol, 1.0 eq.) was dissolved in DCM (5.7 mL). The mixture was cooled to 0° C. and DABCO (132 mg, 1.2 mmol, 1.1 eq.) was added, followed by TsCl (224 mg, 1.2 mmol, 1.1 eq.). The mixture was stirred at 0° C. for 90 minutes, then diluted with EtOAc (500 ml) and washed with water (2×250 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation to yield the title compound (340 mg), which was used without further purification.

reactant | 4-(2-Hydroxymethylfuran-3-yl)piperidine-1-carboxylic acid t-butyl ester | 1.1 mmol, 0.3 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(OC=C1)CO | C15H23NO4
reactant | DABCO | 1.2 mmol, 132 mg, 1.1 eq. | C1CN2CCN1CC2 | C6H12N2
reactant | TsCl | 1.2 mmol, 224 mg, 1.1 eq. | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DCM | 5.7 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 4-[2-(Toluene-4-sulfonyloxymethyl)furan-3-yl]piperidine-1-carboxylic Acid t-Butyl Ester | 340 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(OC=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C22H29NO6S
